US08030302B2
tert-Butyl 5-(4-amino-2-fluorophenoxy)-1-(tetrahydro-2H-pyran-2-yl)-1H-indazol-6-ylcarbamate
To a solution of tert-butyl 5-(2-fluoro-4-nitrophenoxy)-1-(tetrahydro-2H-pyran-2-yl)-1H-indazol-6-ylcarbamate (400 mg, 0.85 mmol) in EtOAc (50 mL) is added Pd/C (10%, 50 mg). The resulting mixture is degassed by evacuation and backfilled with H2 three times. The mixture is stirred under an atmosphere of H2 at RT overnight. The solid is removed by filtration and the filtrate is concentrated. The residue is purified by silica gel column chromatography eluting with DCM:MeOH (10:1) to give the desired product (300 mg, 80% yield). MS (m/z): 443.2 (M+H).

reactant | tert-butyl 5-(2-fluoro-4-nitrophenoxy)-1-(tetrahydro-2H-pyran-2-yl)-1H-indazol-6-ylcarbamate | 0.85 mmol, 400 mg | FC1=C(OC=2C=C3C=NN(C3=CC2NC(OC(C)(C)C)=O)C2OCCCC2)C=CC(=C1)[N+](=O)[O-] | C23H25FN4O6
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
catalyst | Pd/C | 50 mg | [Pd] | Pd
product | tert-Butyl 5-(4-amino-2-fluorophenoxy)-1-(tetrahydro-2H-pyran-2-yl)-1H-indazol-6-ylcarbamate | 300 mg, 80% yield | NC1=CC(=C(OC=2C=C3C=NN(C3=CC2NC(OC(C)(C)C)=O)C2OCCCC2)C=C1)F | C23H27FN4O4
